US06455528B1
(1) Synthesis of 1-(4-Chloromethylphenyl)-1-methylethanol
To a solution of 4-chloromethylbenzoyl chloride (40 g) in tetrahydrofuran (400 ml) was added dropwise methylmagnesium bromide (3M, tetrahydrofuran solution) (70 ml) under ice-cooling and the mixture was stirred at 0° C. for 4 hr. The reaction mixture was poured into an aqueous ammonium chloride solution and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate and the solvent was evaporated to give a yellow oil. The oil was subjected to silica gel column chromatography (developing solvent; hexane:ethyl acetate=9:1) to give an orange oil. The oil was subjected to silica gel column chromatography (developing solvent; hexane:ethyl acetate=4:1) to give the title compound (10 g) as a pale-brown oil, m.p.=101-103° C.

reactant | 4-chloromethylbenzoyl chloride | 40 g | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | methylmagnesium bromide | 3M, 70 ml | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-(4-Chloromethylphenyl)-1-methylethanol | 10 g | ClCC1=CC=C(C=C1)C(C)(O)C | C10H13ClO
